US05397781
Preparation of 4,6-dihydroxy-2-methylpyrimidine
To a solution of sodium ethoxide, prepared from sodium (36.2 g) and ethanol (1000 ml), diethyl malonate (114 ml) and acetamidine hydrochloride (71 g) were added at room temperature, and the mixture was stirred for 5 hours under reflux. After cooling to room temperature, the resulting solid was collected by filtration and washed with ethanol and then dissolved in water. The aqueous solution was acidified to pH Ca.2 with concentrated hydrochloric acid (Ca. 170 ml) under ice-cooling. The formed precipitate was separated by filtration and washed with water, ethanol and ether to give 153 g (81%) of the objective compound.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 36.2 g | [Na] | Na
reactant | diethyl malonate | 114 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetamidine hydrochloride | 71 g | Cl.C(C)(=N)N
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 4,6-dihydroxy-2-methylpyrimidine | 153 g, 81% | OC1=NC(=NC(=C1)O)C | C5H6N2O2
